US03947580
Following the procedures outlined in Examples 1 and 3, p-methoxyphenylacetonitrile is reacted with diethyl oxalate in alcoholic sodium ethoxide solution to give ethyl 3-cyano-3-(p-methoxyphenyl)pyruvate which is then similarly reacted with phenylacetonitrile to yield 2-(p-methoxyphenyl)-5-phenyl-3,4-dioxoadiponitrile.

reactant | p-methoxyphenylacetonitrile | COC1=CC=C(C=C1)CC#N | C9H9NO
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | sodium ethoxide | [O-]CC.[Na+]
product | ethyl 3-cyano-3-(p-methoxyphenyl)pyruvate | C(#N)C(C(C(=O)OCC)=O)C1=CC=C(C=C1)OC | C13H13NO4
